US06607744B1
Synthesis of methyl 10,12-pentacosadiynoate (MePDA):
10,12-pentacosadiynoic acid (10 gm, GFS Chemicals) was dissolved in a solution containing 10 ml methanol (HPLC grade) and 10 ml chloroform (HPLC grade). The solution was stirred at room temperature and 10 drops of neat sulfuric acid was added drop wise. The solution was warmed to 100° F. for 2 hour. The reaction mixture was purified using column chromatography. The product (MePDA) was dried using a rotovap and the material stored in a chloroform solution. The solid form of MePDA was very unstable to polymerization and therefore kept dissolved in organic solutions.

reactant | 10,12-pentacosadiynoic acid | 10 gm | C(CCCCCCCCC#CC#CCCCCCCCCCCCC)(=O)O | C25H42O2
reactant | methanol | 10 ml | CO | CH4O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 10,12-pentacosadiynoate | C(CCCCCCCCC#CC#CCCCCCCCCCCCC)(=O)OC | C26H44O2
